US07345068B2
A mixture of 2-carbamoylnaphthalene (2.64 g, 15.4 mmol) and ethyl 4-chloroacetoacetate (2.06 g, 12.5 mmol) was stirred at 160° C. for 1 hr. and then diluted with ethyl acetate (200 ml) at room temperature. The solution was washed with saturated sodium bicarbonate aqueous solution and brine in turn, and then dried. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=8−4) to give ethyl ester of [2-(2-naphthyl)oxazol-4-yl]acetic acid(459 mg, 13%) as yellow crystals.

reactant | 2-carbamoylnaphthalene | 15.4 mmol, 2.64 g | C(N)(=O)C1=CC2=CC=CC=C2C=C1 | C11H9NO
reactant | ethyl 4-chloroacetoacetate | 12.5 mmol, 2.06 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | [2-(2-naphthyl)oxazol-4-yl]acetic acid | 459 mg, 13% | C1=C(C=CC2=CC=CC=C12)C=1OC=C(N1)CC(=O)O | C15H11NO3
